US08471005B2
2-(4-{2-Methoxy-4-[7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-phenyl}-piperidin-1-yl)-acetamide
Trifluoro-methanesulfonic acid 7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl ester (0.100 g, 0.268 mmol) and 2-[4-(4-Amino-2-methoxy-phenyl)-piperidin-1-yl]-acetamide (0.0882 g, 0.335 mmol) were reacted in an analogous manner to Example 908D at 50° C. for 16 h. The reaction mixture was concentrated, taken up in EtOAc, and washed with brine. The EtOAc layer was dried, filtered over MgSO4, and concentrated. The resulting residue was purified by Gilson RP-HPLC and lyophilized. The product was taken up in EtOAc and washed with NaHCO3 to free-base it to afford title compound (44 mg, 32%). LCMS=487.0 (M+H), HPLC rt=2.500, purity=98%. 1H NMR (400 MHz, (D3C)2SO, δ, ppm): 9.29 (s, 1H), 8.94 (s, 1H), 7.70 (d, J=7.3 Hz, 1H), 7.45 (dd, J=7.3, 7.7 Hz, 1H), 7.37 (s, 1H), 7.19 (d, J=8.3 Hz, 2H), 7.08 (d, J=7.4 Hz, 1H), 6.97 (d, J=8.3 Hz, 1H0, 6.91 (d, J=4.3 Hz, 1H), 6.88 (d, J=4.3 Hz, 1H), 3.76 (s, 3H), 3.42 (s, 3H), 3.31 (s, 2H), 2.89-2.82 (m, 3H), 2.80-2.68 (m, 1H), 2.20-2.05 (m, 2H), 1.72-1.58 (m, 4H).

reactant | Trifluoro-methanesulfonic acid 7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl ester | 0.268 mmol, 0.100 g | COC1=C(C=CC=C1)C1=CC=C2C=NC(=NN21)OS(=O)(=O)C(F)(F)F | C14H10F3N3O4S
reactant | 2-[4-(4-Amino-2-methoxy-phenyl)-piperidin-1-yl]-acetamide | 0.335 mmol, 0.0882 g | NC1=CC(=C(C=C1)C1CCN(CC1)CC(=O)N)OC | C14H21N3O2
product | 2-(4-{2-Methoxy-4-[7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-phenyl}-piperidin-1-yl)-acetamide | 44 mg, 32% | COC1=C(C=CC(=C1)NC1=NN2C(C=N1)=CC=C2C2=C(C=CC=C2)OC)C2CCN(CC2)CC(=O)N | C27H30N6O3
